US06423716B1
1-Methyl-4-(1-piperazinyl)-1H-pyrazolo[3,4-d]pyrimidine
According to the method described in J. Org. Chem., 21: 1240-1256 (1956), 4-chloro-1-methyl-1H-pyrazolo[3,4-d]pyrimidine was derived from 4-hydroxy-1-methyl-1H-pyrazolo[3,4-d]pyrimidine (1.20 g, 8.03 mmol). To this partially purified product, an isopropanol solution (50 mL) of piperazine (5.55 g, 64.4 mmol) was added, followed by stirring at room temperature for 1 hour and then heating under reflux for 1 hour. The reaction solution was concentrated, saturated brine was added thereto, the mixture was extracted with chloroform, the extract was washed with saturated brine and dried over anhydrous sodium sulfate, and then the solvent was evaporated to give the target compound (1.44 g, 6.61 mmol).

reactant | 4-chloro-1-methyl-1H-pyrazolo[3,4-d]pyrimidine | ClC1=C2C(=NC=N1)N(N=C2)C | C6H5ClN4
reactant | 4-hydroxy-1-methyl-1H-pyrazolo[3,4-d]pyrimidine | 8.03 mmol, 1.20 g | OC1=C2C(=NC=N1)N(N=C2)C | C6H6N4O
reactant | piperazine | 64.4 mmol, 5.55 g | N1CCNCC1 | C4H10N2
solvent | isopropanol | 50 mL | C(C)(C)O | C3H8O
product | 1-Methyl-4-(1-piperazinyl)-1H-pyrazolo[3,4-d]pyrimidine | 6.61 mmol, 1.44 g, Yield: 83% | CN1N=CC=2C1=NC=NC2N2CCNCC2 | C10H14N6
